US04720586
(a) 3-Acetyloxy-4-methoxy-2-propylbenzaldehyde
A solution of 3-hydroxy-4-methoxy-2-propylbenzaldehyde (36.6 g) in dry dimethylformamide (50 ml) was added to a suspension of sodium hydride (4.5 g) in dry dimethylformamide (20 ml) in a nitrogen atmosphere. The mixture was stirred at 20° for 30 mins followed by the addition of acetyl chloride (13.5 ml) dropwise over a period of 15 min. The mixture was stirred at 20° for 24 hours.

reactant | 3-hydroxy-4-methoxy-2-propylbenzaldehyde | 36.6 g | OC=1C(=C(C=O)C=CC1OC)CCC | C11H14O3
reactant | sodium hydride | 4.5 g | [H-].[Na+]
reactant | acetyl chloride | 13.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-Acetyloxy-4-methoxy-2-propylbenzaldehyde | C(C)(=O)OC=1C(=C(C=O)C=CC1OC)CCC | C13H16O4
